US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 3,5-dinitroaniline (549 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 11-15° C. At the end of the addition of the aniline extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 22° C. for one hour. The volatile material in the reaction mixture was removed at reduced pressure. Column chromatography (heptane-ethyl acetate 10:1) gave 800 mg (93%) 3,5-dinitro-1-(2-bromo-2-propenyl)benzene as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 8.98, (t, 1H, J=2.1 Hz), 8.47, (d, 2H, J=2.1 Hz), 5.89, (m, 1H), 5.71, (d, 1H, J=2.1 Hz), 4.00, (s, 2H); 13C NMR (CDCl3, 100 MHz) δ 149.05, 142.1, 129.6, 129.3, 121.4, 118.2, 47.3.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 3,5-dinitroaniline | 3.0 mmol, 549 mg | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
reactant | aniline | 1.5 mmol, 180 μl | NC1=CC=CC=C1 | C6H7N
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | 3,5-dinitro-1-(2-bromo-2-propenyl)benzene | 800 mg, 93% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CC(=C)Br | C9H7BrN2O4
